### PR TITLE
[Merged by Bors] - feat: LSeries commutes with finite sums

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
The fourth PR in [this series](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/Prerequisites.20for.20PNT.20and.20Dirichlet's.20Thm/near/482005581) extends the LSeries API by showing that forming the LSeries commutes with finite sums.

From [EulerProducts](https://github.com/MichaelStollBayreuth/EulerProducts).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/Linearity.lean [hunk 1]
```diff
@@ -132,3 +130,57 @@ lemma LSeriesSummable.smul_iff {f : ℕ → ℂ} {c s : ℂ} (hc : c ≠ 0) :
...
+### Sums
+-/
+
+section sum
+
+variable {ι : Type*} [DecidableEq ι] (f : ι → ℕ → ℂ) (S : Finset ι) (s : ℂ)
+
+lemma LSeries.term_sum_apply (n : ℕ) :
+    term (∑ i ∈ S, f i) s n  = ∑ i ∈ S, term (f i) s n := by
+  induction S using Finset.induction_on with
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Linearity.lean:144]: wouldn't it be simpler to do cases on `n` here rather than induction on `S`?

File: Mathlib/NumberTheory/LSeries/Linearity.lean [hunk 2]
```diff
@@ -132,3 +130,57 @@ lemma LSeriesSummable.smul_iff {f : ℕ → ℂ} {c s : ℂ} (hc : c ≠ 0) :
...
+
+@[simp]
+lemma LSeries_sum (hf : ∀ i ∈ S, LSeriesSummable (f i) s) :
+    LSeries (∑ i ∈ S, f i) s = ∑ i ∈ S, LSeries (f i) s := by
+  simpa only [LSeries, term_sum, Finset.sum_apply] using tsum_sum hf
+
+variable [Fintype ι]
+
+/-- The version of `LSeriesHasSum.sum` for `Fintype.sum`. -/
+lemma LSeriesHasSum.sum' {a : ι → ℂ} (hf : ∀ i, LSeriesHasSum (f i) s (a i)) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Linearity.lean:171]: I think `Fintype.sum` doesn't actually exist, and `∑ i : ι, f i` is just syntactic sugar for `∑ i ∈ univ, f i`. So I am not sure what these additional lemmas are needed for.

File: Mathlib/NumberTheory/LSeries/Linearity.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Linearity.lean:144]: True; will do.

File: Mathlib/NumberTheory/LSeries/Linearity.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Linearity.lean:171]: There are quite a few lemmas called `Fintype.sum_<blah>`, so there is precedent. But you are right that `Fintype.sum` as such does not exist. So the question is perhaps if the existence of the other `Fintype.sum_<blah>` lemmas justifies having these variants here, too. (The docstrings need to be changed, of course.)

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Linearity.lean:171]: (At the one point where I'm using the `Fintype` variant later, I can of course easily switch to the unprimed version at the cost of adding a `_`, so I'm open to removing these.)

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/Linearity.lean:169]: I recall this discussion came up on another PR recently – I can't remember if that was one of yours or someone else's – and we agreed that there is only a need for a `Fintype.sum_xxx` variant when the fintype statement was genuinely different from, and simpler than, the corresponding `Finset` statement applied to `univ`, as with `Fintype.prod_sum` compared to `Finset.prod_sum`. By your last message it sounds like that isn't the case here.

File: Mathlib/NumberTheory/LSeries/Linearity.lean [hunk 3]
```diff
@@ -132,3 +130,37 @@ lemma LSeriesSummable.smul_iff {f : ℕ → ℂ} {c s : ℂ} (hc : c ≠ 0) :
...
+
+/-!
+### Sums
+-/
+
+section sum
+
+variable {ι : Type*} (f : ι → ℕ → ℂ) (S : Finset ι) (s : ℂ)
+
+lemma LSeries.term_sum_apply (n : ℕ) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/Linearity.lean:142]: `@[simp]`?

**Review by loefflerd — COMMENTED** [review]
LGTM now, just needs a simp flag

maintainer delegate

File: Mathlib/NumberTheory/LSeries/Linearity.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/Linearity.lean:142]: It doesn't hurt, and follows the precedent of `Finset.sum_apply`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
